US07396847B2
(5R)-3-(3-Fluoro-4-iodophenyl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one
Silver trifluoroacetate (0.52 g, 2.35 mM) was added to a solution of (5R)-3-(3-fluorophenyl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one (0.50 g, 1.81 mM) in dichloromethane (15 mL). Iodine (0.55 g, 2.17 mM) was added over 1.5 h, and reaction mixture was stirred overnight. After 16 h, the solids were removed by filtration and additional silver trifluoroacetate (0.38 g, 1.72 mM) and iodine (0.27 g, 1.06 mM) were added. After an additional 24 h, the reaction mixture was filtered. The filter cake was washed with methanol. The methanol filtrate was concentrated under vacuum to give 0.31 g of the title product.

reactant | (5R)-3-(3-fluorophenyl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one | 1.81 mM, 0.50 g | FC=1C=C(C=CC1)N1C(O[C@H](C1)CN1N=NC(=C1)C)=O | C13H13FN4O2
reactant | Iodine | 2.17 mM, 0.55 g | II | I2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | Silver trifluoroacetate | 2.35 mM, 0.52 g | FC(C(=O)[O-])(F)F.[Ag+]
product | (5R)-3-(3-Fluoro-4-iodophenyl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one | 0.31 g | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CN1N=NC(=C1)C)=O | C13H12FIN4O2
